US07579341B2
A6b) 1′-benzyl-[1,4′]bipiperidinyl-4-ylamine
A solution of 7.0 g (18.7 mmol) tert-butyl(1′-benzyl-[1,4′]bipiperidinyl-4-yl)-carbamate and 14.3 mL (185 mmol) TFA in 80 mL DCM was refluxed overnight. The mixture was evaporated down i. vac., the residue was combined with 200 mL 30% K2CO3 solution and extracted three times with 100 mL EtOAc, discarding the first 100 mL of extract. The combined organic phases were dried over Na2SO4, filtered and evaporated down. The product was reacted further without purification.

reactant | tert-butyl(1′-benzyl-[1,4′]bipiperidinyl-4-yl)-carbamate | 18.7 mmol, 7.0 g | C(C)(C)(C)OC(NC1CCN(CC1)C1CCN(CC1)CC1=CC=CC=C1)=O | C22H35N3O2
reactant | TFA | 185 mmol, 14.3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | 1′-benzyl-[1,4′]bipiperidinyl-4-ylamine | C(C1=CC=CC=C1)N1CCC(CC1)N1CCC(CC1)N | C17H27N3
